US04052421
After adding 66 ml of a 10% strength aqueous potassium hydroxide solution, a solution of 1.68 g of 3β,17β-diacetoxy-13-(2-chlorovinyl)-10-methyl-gon-5-ene (a mixture of the cis and trans isomers in a ratio of 1:3) in 132 ml of methanol is stirred for 90 minutes at 45° C whilst passing nitrogen through the mixture. The reaction mixture is then concentrated to about 40 ml in a water pump vacuum and taken up in ethyl acetate. The organic phase, which is separated off, is washed with 1 N hydrochloric acid and with water until neutral, dried and evaporated. Chromatography on silica gel using a mixture of hexane/ethyl acetate (2:1) as the eluant gives 13-(2-chlorovinyl)-10-methyl-gon-5-ene-3β,17β-diol (a corresponding mixture of the cis and trans isomers) in an amorphous form.

reactant | potassium hydroxide | [OH-].[K+]
reactant | 3β,17β-diacetoxy-13-(2-chlorovinyl)-10-methyl-gon-5-ene | 1.68 g | C(C)(=O)O[C@@H]1CC2=CC[C@@H]3[C@H](CC[C@@]4([C@H](CC[C@@H]34)OC(C)=O)C=CCl)[C@]2(CC1)C | C24H33ClO4
solvent | methanol | 132 ml | CO | CH4O
product | 13-(2-chlorovinyl)-10-methyl-gon-5-ene-3β,17β-diol | ClC=C[C@]12[C@H](CC[C@H]2[C@H]2[C@H](CC1)[C@]1(CC[C@@H](CC1=CC2)O)C)O | C20H29ClO2
